US06294566B1
4-Bromo-3-methylisoquinoline.
To 3-methylisoquinoline (0.500 g, 3.49 mmol) in 1 ml nitrobenzene, bromine (0.196 ml, 3.84 mmol) was added and the contents heated in a sealed tube at 180° C. for 4 hours. The solution was cooled to room temperature, neutralized with solid sodium carbonate (pH=8) and extracted with ethyl acetate (2×20 ml). The organic layer was dried over sodium sulfate, filtered, concentrated and column purified (hexane:EtOAc; 4.5:0.5) to give 0.560 g (72%) of the product as syrup.

reactant | 3-methylisoquinoline | 3.49 mmol, 0.500 g | CC=1N=CC2=CC=CC=C2C1 | C10H9N
reactant | bromine | 3.84 mmol, 0.196 ml | BrBr | Br2
reactant | sodium carbonate | pH=8 | C([O-])([O-])=O.[Na+].[Na+]
solvent | nitrobenzene | 1 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-Bromo-3-methylisoquinoline | 0.560 g, 72% | BrC1=C(N=CC2=CC=CC=C12)C | C10H8BrN
